US08084395B2
80 g (74.6 mmoles) of pyridine-4-carboxaldehyde is dissolved in 150 mL of methanol. 123.5 mL (112 mmoles) of trimethyl orthoformiate is added to the reaction mixture at room temperature followed by the addition of 33 mL of concentrated sulfuric acid. The reaction mixture is kept under reflux for 24 hours and once cooled, added to 300 mL of sodium methylate solution. The white suspension obtained is filtered over celite, the filtrate is concentrated under vacuum and 70.3 g of 4-dimethoxymethyl-pyridine is obtained as a yellow oil.

reactant | pyridine-4-carboxaldehyde | 74.6 mmoles, 80 g | N1=CC=C(C=C1)C=O | C6H5NO
reactant | sulfuric acid | 33 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium methylate | 300 mL | C[O-].[Na+]
reactant | methanol | 150 mL | CO | CH4O
product | 4-dimethoxymethyl-pyridine | 70.3 g | COC(C1=CC=NC=C1)OC | C8H11NO2
